US05985901
Step 2B (S)-2-[3-(2-amino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester
To a solution of (S)-2-[3-(2-amino-1-methylethyl)-7-bromo-2-(3,5-dimethylphenyl)-1H-indol -5-yl]-2-methyl propionic acid ethyl ester (79 mg in 1 mL methanol) was added 8 mg of 10% palladium on carbon catalyst. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 7 hours the reaction was flushed with nitrogen, filtered over diatomaceous earth, concentrated in vacuo and purified by flash chromatography on silica gel (chloroform:methanol, 92:8) to provide the title compound (68 mg).

reactant | (S)-2-[3-(2-amino-1-methylethyl)-7-bromo-2-(3,5-dimethylphenyl)-1H-indol -5-yl]-2-methyl propionic acid ethyl ester | 1 mL, 79 mg | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=C(C1)Br)C1=CC(=CC(=C1)C)C)[C@@H](CN)C)=O | C25H31BrN2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 8 mg | [Pd] | Pd
product | (S)-2-[3-(2-amino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 68 mg | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)[C@@H](CN)C)=O | C25H32N2O2
